US08383629B2
(±)-(E)-2-(6-fluoro-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetamide
The title compound was prepared following a procedure analogous to that described in Example 7 using 0.5 M NH3 in dioxane and (±)-(E)-2-(6-fluoro-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid. LC-MS Method 1 tR=1.67, min, m/z=461.

reactant | NH3 | 0.5 M | N | H3N
reactant | (±)-(E)-2-(6-fluoro-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | FC1=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C2=C1)CC(=O)O | C25H23F4NO3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (±)-(E)-2-(6-fluoro-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetamide | FC1=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C2=C1)CC(=O)N | C25H24F4N2O2
